US05081277
Methyl (2S,3S) 3-(5-chloro-2-nitro-phenylthio)-2-hydroxy-3-(4-methoxyphenyl)-propionate
In a 25 ml flask equipped with thermometer and nitrogen admission, there are introduced 26 mg of zinc acetate dihydrate, 948 mg of 5-chloro-2-nitrothiophenol and 5 ml of toluene. To the suspension are added dropwise, within 5 mn, a solution of 1.093 g of methyl (-) (2R,3S) 3-(4-methoxyphenyl)-2,3-epoxy-propionate in 9 ml of toluene at 25° C. The temperature rises to 29° C., whilst stirring is maintained for 45 mn. The mixture is evaporated in vacuo, and a yellow oil is obtained, which is used as it is in the subsequent example.

reactant | 5-chloro-2-nitrothiophenol | 948 mg | ClC=1C=CC(=C(C1)S)[N+](=O)[O-] | C6H4ClNO2S
reactant | methyl (-) (2R,3S) 3-(4-methoxyphenyl)-2,3-epoxy-propionate | 1.093 g | COC1=CC=C(C=C1)[C@H]1[C@H](C(=O)OC)O1 | C11H12O4
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc acetate dihydrate | 26 mg | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl (2S,3S) 3-(5-chloro-2-nitro-phenylthio)-2-hydroxy-3-(4-methoxyphenyl)-propionate | ClC=1C=CC(=C(C1)S[C@H]([C@H](C(=O)OC)O)C1=CC=C(C=C1)OC)[N+](=O)[O-] | C17H16ClNO6S
